US05962438
A crude product was obtained in the same manner as in Example 8 except for using 3-(3-(4,4-bis(diethoxyphosphinoyl)butyrylamino)-4-hydroxyphenyl)-4-(4-hydroxyphenyl)-3-hexene (0.48 g) obtained by the process described in Example 32, and then it was purified by a high-performance reversed phase column chromatography (a 0.1% aqueous trifluoroacetic acid solution:acetonitrile) to obtain 3-(3-(4,4-diphosphonobutyrylamino)-4-hydroxyphenyl)-4-(4-hydroxyphenyl)-3-hexene (74 mg, yield 19%).

reactant | 3-(3-(4,4-bis(diethoxyphosphinoyl)butyrylamino)-4-hydroxyphenyl)-4-(4-hydroxyphenyl)-3-hexene | 0.48 g | C(C)OP(=O)(C(CCC(=O)NC=1C=C(C=CC1O)C(CC)=C(CC)C1=CC=C(C=C1)O)P(=O)(OCC)OCC)OCC | C30H45NO9P2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(4,4-diphosphonobutyrylamino)-4-hydroxyphenyl)-4-(4-hydroxyphenyl)-3-hexene | 74 mg, yield 19% | P(=O)(O)(O)C(CCC(=O)NC=1C=C(C=CC1O)C(CC)=C(CC)C1=CC=C(C=C1)O)P(=O)(O)O | C22H29NO9P2
